US04430339
(b) 5-Cycloundecyl-2-methylenevaleric acid ethyl ester
4.4 g of 5-cycloundecyl-2-methylenevaleric acid ethyl ester, in the form of a yellowish oil, which is purified by chromatography on silica gel (migrating agent: 95:5 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1b) from 7.6 g of (3-cycloundecylpropyl)-malonic acid ethyl ester, 0.84 g of paraformaldehyde, 7 ml of pyridine and 0.3 ml of piperidine.

reactant | (3-cycloundecylpropyl)-malonic acid ethyl ester | 7.6 g | C(C)OC(C(C(=O)O)CCCC1CCCCCCCCCC1)=O | C19H34O4
reactant | paraformaldehyde | 0.84 g | C=O | CH2O
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 5-Cycloundecyl-2-methylenevaleric acid ethyl ester | C(C)OC(C(CCCC1CCCCCCCCCC1)=C)=O | C19H34O2
